US07696223B2
a) 2-Acetyl-5,5-dimethyl-4-oxo-hexanoic acid ethyl ester
Prepared in analogy to that of 2-[2-(4-fluoro-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid ethyl ester from 1-chloro-3,3-dimethyl-butan-2-one. The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=4.19 (q, 2H, J=7.2 Hz), 4.02 (m, 1H), 3.23 (dd, 1H, J=8.2 Hz, 18.4 Hz), 3.00 (dd, J=6.0 Hz, J=18.4 Hz), 2.37 (s, 3H), 1.8 (t, 3H, J=7.2 Hz), 1.17 (s, 9H).

reactant | 2-[2-(4-fluoro-phenyl)-2-oxo-ethyl]-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)CC(=O)C1=CC=C(C=C1)F)=O | C14H15FO4
reactant | 1-chloro-3,3-dimethyl-butan-2-one | ClCC(C(C)(C)C)=O | C6H11ClO
product | 2-Acetyl-5,5-dimethyl-4-oxo-hexanoic acid ethyl ester | C(C)OC(C(CC(C(C)(C)C)=O)C(C)=O)=O | C12H20O4
